US07345067B2
NH4Cl (4.49 g, 84.00 mmol) in water (105 ml) was added to a suspension of Fe (powder, 2.85 g, 51.00 mmol) in water (18 ml), the treated with (2-iodo-4-nitro-phenoxy)-acetic acid methyl ester (5.06 g, 15.00 mmol) in MeOH (105 ml). The reaction was heated at 90° C. for 28 h, filtered and extracted with brine/EtOAc (3×). The organic phase was washed with brine, dried over Na2SO4 and evaporated to give 1.2 g of (4-amino-2-iodo-phenoxy)-acetic acid methyl ester, MS: 308.1 (MH)+.

reactant | NH4Cl | 84.00 mmol, 4.49 g | [NH4+].[Cl-]
reactant | (2-iodo-4-nitro-phenoxy)-acetic acid methyl ester | 15.00 mmol, 5.06 g | COC(COC1=C(C=C(C=C1)[N+](=O)[O-])I)=O | C9H8INO5
solvent | water | 105 ml | O | H2O
solvent | water | 18 ml | O | H2O
solvent | MeOH | 105 ml | CO | CH4O
catalyst | Fe | 51.00 mmol, 2.85 g | [Fe] | Fe
product | (4-amino-2-iodo-phenoxy)-acetic acid methyl ester | 1.2 g | COC(COC1=C(C=C(C=C1)N)I)=O | C9H10INO3
